US04334015
The particularly preferred substituted aromatic hydrazone 2-hydroxy-1-naphthaldehyde-p-(t-butyl)-benzoyl hydrazone is prepared in a manner similar to the preparation of 2-hydroxy-1-naphthaldehyde-o-aminobenzoyl hydrazone, Equations (1) through (3) above. Since the ester of p-(t-butyl)-benzoic acid is not available the preparation of this hydrazone requires the additional step of esterification of the benzoic acid. The ester of p-(t-butyl)-benzoic acid is reacted with hydrazine to produce p-(t-butyl)-benzhydrazide. This hydrazide is then reacted with 2-hydroxy-1-naphthaldehyde to yield 2-hydroxy-1-naphthaldehyde-p-(t-butyl)-benzoyl hydrazone.

reactant | 2-hydroxy-1-naphthaldehyde-o-aminobenzoyl hydrazone | NC1=C(C(=O)NN=CC2=C(C=CC3=CC=CC=C23)O)C=CC=C1 | C18H15N3O2
reactant | p-(t-butyl)-benzoic acid | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | hydrazine | NN | H4N2
product | p-(t-butyl)-benzhydrazide | C(C)(C)(C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
